US07723330B2
Step C: Preparation of N1-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)-2-fluoro-N1-(2-morpholinoethyl)benzene-1,4-diamine:
1-(4-methoxybenzyl)-N-(2-fluoro-4-nitrophenyl)-N-(2-morpholinoethyl)-1H-pyrazolo[3,4-b]pyridin-4-amine (0.024 g, 0.0474 mmol) and SnCl2-dihydrate (0.0535 g, 0.237 mmol) were stirred in EtOH (2 mL) for 2 hours at reflux. The reaction was cooled to room temperature and then concentrated under reduced pressure and dried in vacuo. The residue was diluted with EtOAc and washed with saturated Na2CO3 (20 mL). The organics were dried over Na2SO4. The organics were filtered and concentrated to give 21 mg (92%) of product as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.21 (d, 1H), 7.27 (m, 2H), 7.11 (m, 1H), 6.558 (bs, 1H), 6.49 (m, 2H), 6.29 (d, 1H), 5.48 (s, 2H), 4.12 (m, 4H), 3.73 (s, 3H), 3.69 (m, 4H), 2.73 (t, 2H), 2.48 (m, 4H); F NMR (400 MHz, CDCl3) −120.43 (s, 1F); LRMS (apci pos): 477.3 (M+H)+.

reactant | 1-(4-methoxybenzyl)-N-(2-fluoro-4-nitrophenyl)-N-(2-morpholinoethyl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.0474 mmol, 0.024 g | COC1=CC=C(CN2N=CC3=C2N=CC=C3N(CCN3CCOCC3)C3=C(C=C(C=C3)[N+](=O)[O-])F)C=C1 | C26H27FN6O4
solvent | EtOH | 2 mL | CCO | C2H6O
product | N1-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)-2-fluoro-N1-(2-morpholinoethyl)benzene-1,4-diamine | 21 mg, 92% | COC1=CC=C(CN2N=CC=3C2=NC=CC3N(C3=C(C=C(C=C3)N)F)CCN3CCOCC3)C=C1 | C26H29FN6O2
